US07105548B2
3-Bromo-1H-1,2,4triazole (1.9 g, 12.8 mmol) was dissolved in anhydrous methanol (20 mL). NaOMe (51 mL of a 0.5 M solution in methanol, 25.6 mmol) was then added to the stirred solution and the resulting reaction mixture was cooled to −78° C. in an argon blanketed flask. 1-Fluoropyridinium triflate (4.9 g, 15 mmol) in anhydrous methanol (20 mL) was added dropwise to this stirred solution. The resulting yellow mixture was stirred at −78° C. for 1 h under argon atmosphere, then allowed to reach ambient temperature. The mixture was stirred for 16 h at ambient temperature, after which time it was concentrated in vacuo. The resulting residue was dissolved in EtOAc (100 mL), the EtOAc solution washed with H2O (100 mL), then brine (100 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with hexane:EtOAc (90:10) to afford 2-(3-bromo-1H-1,2,4-triazol-1-yl)pyridine as a white solid.

reactant | 3-Bromo-1H-1,2,4triazole | 12.8 mmol, 1.9 g | BrC1=NNC=N1 | C2H2BrN3
reactant | NaOMe | C[O-].[Na+]
reactant | 1-Fluoropyridinium triflate | 15 mmol, 4.9 g | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=CC=CC=C1
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | 2-(3-bromo-1H-1,2,4-triazol-1-yl)pyridine | BrC1=NN(C=N1)C1=NC=CC=C1 | C7H5BrN4
